US05326773
Step C: 3-(t-Butoxycarbonyl)amino-3-methyl-tetrahydropyran-2-one
2-(t-Butyloxycarbonyl)amino-2-methyl-5-hydroxypentanoic acid (3.0 g, 0.012 mol) and EDC (2.56 g, 0.013 mol) were dissolved in DMF (20 mL) and stirred at ambient temperature for 18 h. The reaction mixture was concentrated to dryness, and the residue was partitioned between EtOAc (30 mL)-H2O (30 mL), the organic layer separated, washed with brine and dried (Na2SO4). Filtration, concentration, and chromatography (SiO2, EtOAc: hexane, 1:3) gave 0.86 g (31%) of the title compound. 1H NMR (CDCl3) δ 5.1 (br s, 1H), 4.35-4.55 (m, 2H), 2.49-2.64 (m, 1H), 1.78-2.1 (m, 3H), 1.45 (s, 3H), 1.41 (s, 9H).

reactant | 2-(t-Butyloxycarbonyl)amino-2-methyl-5-hydroxypentanoic acid | 0.012 mol, 3.0 g | C(C)(C)(C)OC(=O)NC(C(=O)O)(CCCO)C | C11H21NO5
reactant | EDC | 0.013 mol, 2.56 g
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3-(t-Butoxycarbonyl)amino-3-methyl-tetrahydropyran-2-one | 0.86 g, 31% | C(C)(C)(C)OC(=O)NC1(C(OCCC1)=O)C | C11H19NO4
